US08217035B2
6-Methoxy-3-nitroquinoline (Magnus, P. et al., J. Am. Chem. Soc. 119, 5591, 1997; 100 mg, 0.49 mmol) was dissolved in hydrogen bromide solution (47% aq, 2.5 mL, 0.2 M), heated and stirred at 120° C. for 16 hours. The reaction mixture was cooled to room temperature, neutralized with 6N NaOH, then extracted with EtOAc (150 mL). The organic layer was dried over Na2SO4 and purified by flash chromatography (SiO2, 40-50% EtOAc/hexanes), obtaining 73 mg (78%) of 6-hydroxy-3-nitroquinoline. LC/MS (m/z): 190.9 (MH+), Rt 1.97 minutes.

reactant | 6-Methoxy-3-nitroquinoline | 0.49 mmol, 100 mg | COC=1C=C2C=C(C=NC2=CC1)[N+](=O)[O-] | C10H8N2O3
reactant | NaOH | 6N | [OH-].[Na+]
solvent | hydrogen bromide | 0.2 M, 2.5 mL | Br | BrH
product | 6-hydroxy-3-nitroquinoline | 73 mg, 78% | OC=1C=C2C=C(C=NC2=CC1)[N+](=O)[O-] | C9H6N2O3
